US07265104B2
To a solution of 1-cyclohexyl-4H,6H-2,3,6,10b-tetraaza-benzo[e]azulen-5-one (Preparation 4(B) (100 mg, 0.354 mmol) in DMF (10 mL) at 0° C. was added NaH (60% in oil, 15 mg, 0.372 mmol). The reaction was stirred at 0° C. for 30 minutes, was cooled to −10C and 2-bromo-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide (Preparation 1(B) (107 mg, 0.372 mmol) in DMF (1 mL) was added. The reaction was stirred at room temperature for 24 h and was diluted with water. The aqueous solution was washed with EtOAc (3×). The combined organic solutions were dried (MgSO4), filtered and concentrated. The residue was purified by medium pressure chromatography eluting with a solvent gradient (1% EtOAc in hexanes to 100% EtOAc) to provide 861.8 mg of 2-(1-cyclohexyl-5-oxo-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl)-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide. 1H NMR (CDCl3) δ 8.11-7.48 (m, total 3H), 7.36 (m, 3H), 6.79 (dd, 1H), 4.99 (m, 1H), 4.12 (m, 2H), 3.92 (d, 3H), 3.65 (d) and 3.82 (d, total 1H), 3.46 (dd, 1H), 2.83 (m, 1H), 2.20 (d, 1H), 2.03-1.86 (m, 3H), 1.68 (m, 2H), 1.54 (m, 2H) 1.31-1.41 (m, 2H), 1.07 (m, 6H); MS 489.4 (M+1), 487.4 (M−1).

reactant | 1-cyclohexyl-4H,6H-2,3,6,10b-tetraaza-benzo[e]azulen-5-one | C1(CCCCC1)C1=NN=C2CC(NC3=C(N12)C=CC=C3)=O | C16H18N4O
reactant | NaH | 0.372 mmol, 15 mg | [H-].[Na+]
reactant | 2-bromo-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide | BrCC(=O)N(C=1C=NC(=CC1)OC)C(C)C | C11H15BrN2O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(1-cyclohexyl-5-oxo-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl)-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide | 861.8 mg | C1(CCCCC1)C1=NN=C2CC(N(C3=C(N12)C=CC=C3)CC(=O)N(C=3C=NC(=CC3)OC)C(C)C)=O | C27H32N6O3
